US08232269B2
Preparation 1: 4-[Cyano(cyclopropyl)acetyl]benzonitrile
A 2.5 molar solution of n-butyl lithium (114 mL, 285 mmol) in hexane was added to a cooled (−78° C.) solution of diisopropylamine (38.3 mL, 273 mmol) in tetrahydrofuran (300 mL). This cooled reaction mixture was then allowed to stir for 1 hour, after which time cyclopropylacetonitrile (20.8 mL, 261 mmol) was added at such a rate as to keep the temperature below −60° C. This mixture was then allowed to stir at −78° C. for 1 hour, after which time a solution of 4-cyano-benzoic acid methyl ester (40 g, 248 mmol) in tetrahydrofuran (100 mL) was added at such a rate as to keep the temperature below −60° C. This mixture was then slowly warmed to room temperature and stirred for 18 hours after which time it was quenched onto an aqueous 10% solution (weight/volume) citric acid (600 mL) and extracted with ethyl acetate (2×2500 mL). The organic extracts were washed with brine (600 mL), dried over magnesium sulphate, filtered, and evaporated under reduced pressure to give a brown oil (52.7 g, 100%). This material was used for subsequent steps without further purification. 1H NMR (400 MHz, CDCl3): δ 0.60 (m, 2H), 0.80 (m, 2H), 1.40 (m, 1H), 4.10 (d, 1H), 7.85 (d, 2H), 8.10 (d, 2H). ESCI MS m/z 243 [M−H]−

reactant | n-butyl lithium | 285 mmol, 114 mL | C(CCC)[Li]
reactant | diisopropylamine | 273 mmol, 38.3 mL | C(C)(C)NC(C)C | C6H15N
reactant | cyclopropylacetonitrile | 261 mmol, 20.8 mL | C1(CC1)CC#N | C5H7N
reactant | 4-cyano-benzoic acid methyl ester | 248 mmol, 40 g | COC(C1=CC=C(C=C1)C#N)=O | C9H7NO2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-[Cyano(cyclopropyl)acetyl]benzonitrile | 52.7 g, 100% | C(#N)C(C(=O)C1=CC=C(C#N)C=C1)C1CC1 | C13H10N2O
